US06605626B2
C. N1-(4-Bromobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl)-1,2-benzenediamine
A solution of N1-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl)-1,2-benzenediamine (300 mg, 0.920 mmol) and pyridine (0.74 mL) in chloroform (5 mL) was treated with 4-bromobenzoyl chloride (405 mg, 1.84 mmol). After 20 h, the mixture was concentrated and the residue partitioned between water and ethyl acetate. The aqueous layer was extracted three times with ethyl acetate and the combined organics were washed with 1 N aqueous sodium hydroxide, water, saturated sodium chloride solution. The solution was dried (potassium carbonate), filtered, and concentrated in vacuo. Recrystallization (methanol/chloroform and hexanes) yielded 200 mg (43%) of the title compound.

reactant | N1-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl)-1,2-benzenediamine | 0.920 mmol, 300 mg | N1=CC=C(C=C1)C(OC(=O)NC=1C(=CC=CC1)N)C1CCNCC1 | C18H22N4O2
reactant | pyridine | 0.74 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-bromobenzoyl chloride | 1.84 mmol, 405 mg | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | N1-(4-Bromobenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl)-1,2-benzenediamine | 200 mg, 43% | BrC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)OC(C2=CC=NC=C2)C2CCNCC2)C=C1 | C25H25BrN4O3
